US09102591B2
2-chloro-6-fluoro-N-(2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide
From 2-chloro-6-fluorobenzoic acid and 2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine. LCMS (MH+): m/z=466.1, tR (minutes, Method F)=2.97

reactant | 2-chloro-6-fluorobenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)F | C7H4ClFO2
reactant | 2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine | FC1(CCC(CC1)C(CN)C=1C=NC(=NC1)C(F)(F)F)F | C13H16F5N3
product | 2-chloro-6-fluoro-N-(2-(4,4-difluorocyclohexyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C(F)(F)F)C2CCC(CC2)(F)F)C(=CC=C1)F | C20H18ClF6N3O
